US04420225
457 g (1 mol) of o-trifluoromethylbenzyltriphenyl-phosphonium chloride and 150 g (5 mols) of paraformaldehyde are initially introduced into 1,200 ml of water. 150 ml of 50% strength by weight sodium hydroxide solution are added at about 20° C. The mixture is allowed to after-react at 40° to 50° C. for 1 hour and the o-trifluoromethylstyrene formed is then distilled out of the reaction mixture with steam. The organic phase of the distillate contains 170 g (about 98% of the theoretical yield) of o-trifluoromethylstyrene with a purity, according to analysis by gas chromatography, of 99%. nD20 :1.4663. Boiling point: 61° C. under 53 mbars.

reactant | o-trifluoromethylbenzyltriphenyl-phosphonium chloride | 1 mol, 457 g | [Cl-].FC(C1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1)(F)F
reactant | paraformaldehyde | 5 mols, 150 g | C=O | CH2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 1,200 ml | O | H2O
product | o-trifluoromethylstyrene | FC(C1=C(C=C)C=CC=C1)(F)F | C9H7F3
